US08258097B2
A mixture of (S)-3-(3-benzyloxy-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester (1.15 g, 2.87 mmol) and N-succinimidyl N-methylcarbamate (1.975 g, 11.47 mmol) in acetonitrile (15 mL) was refluxed 4 days. After the removal of solvent, the residue was purified with chromatography using EtOAc/hexane (1:1.5) as an eluent to obtain (S)-3-(3-benzyloxy-4-methylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester as a white solid, 0.83 g. 1H NMR (400 MHz, CDCl3) 1.43 (s, 9H), 2.86 (d, 3H), 3.03 (m, 2H), 3.66 (s, 3H), 4.56 (m, 1H), 4.98 (m, 2H), 5.05 (s, 2H), 6.70-6.90 (m, 2H), 7.03 (m, 1H), 7.29-7.43 (m, 5H).

reactant | (S)-3-(3-benzyloxy-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 2.87 mmol, 1.15 g | COC([C@H](CC1=CC(=C(C=C1)O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C22H27NO6
reactant | N-succinimidyl N-methylcarbamate | 11.47 mmol, 1.975 g | CNC(=O)ON1C(=O)CCC1=O | C6H8N2O4
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (S)-3-(3-benzyloxy-4-methylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)OC(NC)=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H30N2O7
